US08859768B2
A mixture of N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide (6.0 g, 19.8 mmol), hexamethyldistannane (5.4 mL, 25.8 mmol) and Pd(PPh3)4 in 1,4-dioxane (120 mL) was allowed to stir at 95° C. under an atmosphere of nitrogen overnight. The reaction mixture was filtered through celite and the filtrate was concentrated. The residue was purified by column chromatography to give N-[5-methyl-4-(trimethylstannyl)pyridin-2-yl]cyclopropanecarboxamide (4.1 g, 61%).

reactant | N-(4-iodo-5-methylpyridin-2-yl)cyclopropanecarboxamide | 19.8 mmol, 6.0 g | IC1=CC(=NC=C1C)NC(=O)C1CC1 | C10H11IN2O
reactant | hexamethyldistannane | 25.8 mmol, 5.4 mL | C[Sn]([Sn](C)(C)C)(C)C
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-methyl-4-(trimethylstannyl)pyridin-2-yl]cyclopropanecarboxamide | 4.1 g, 61% | CC=1C(=CC(=NC1)NC(=O)C1CC1)[Sn](C)(C)C | InChI=1S/C10H11N2O.3CH3.Sn/c1-7-2-5-9(11-6-7)12-10(13)8-3-4-8;;;;/h5-6,8H,3-4H2,1H3,(H,11,12,13);3*1H3;
